* C:\Users\mathg\Desktop\SAES2\NE555_Spice\NE555.asc
V1 N001 0 5
XU1 0 Vcond Sortie N001 NC_01 Vcond N002 N001 NE555
C1 Vcond 0 150n
R1 N003 Vcond 200k
R2 N002 N003 22k
R3 N001 N002 100k
.tran 0 1 0 1m
.op
.lib NE555.sub
.backanno
.end
